US06124354
2-(Diethylamino)ethyl 1-phenylcyclobutanecarboxylate Hydrochloride
1-Phenylcyclobutanecarboxylic acid (1.9 mmol) was refluxed with SOCl2 (5 mL). After 0.5 h, the reaction mixture was evaporated and the residue dissolved in toluene. Diisopropylaminoethanol (3.8 mmol) was added and the mixture was heated at 80° C. for 1.5 h. The reaction mixture was filtered and chromatographed on silica gel using toluene-Et3N 95:5 as eluent. The yield was 1.3 g (73%); mp 137-139° C.; 1H NMR (D2O) δ 1.25 (t, 6H), 1.92-2.01 (m, 1H), 2.07-2.16 (m, 1H), 2.64 (m, 2H), 2.89 (m, 2H), 3.11 (q, 4H), 3.50 (t, 2H), 4.48 (t, 2H), 7.44 (m, 1H), 7.48 (m, 2H), 7.53 (m, 2H). Anal. (C17H25NO2.HCl) C, H, N.

reactant | 1-Phenylcyclobutanecarboxylic acid | 1.9 mmol | C1(=CC=CC=C1)C1(CCC1)C(=O)O | C11H12O2
reactant | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
reactant | Diisopropylaminoethanol | 3.8 mmol | C(C)(C)N(C(C)C)C(C)O | C8H19NO
product | 2-(Diethylamino)ethyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OCCN(CC)CC | InChI=1S/C17H25NO2.ClH/c1-3-18(4-2)13-14-20-16(19)17(11-8-12-17)15-9-6-5-7-10-15;/h5-7,9-10H,3-4,8,11-14H2,1-2H3;1H
